US06166006
In THF (60 ml) was dissolved 7-(4-methylphenyl)-3,4-dihydro-naphthalene-2-carboxylic acid (4.02 g). To the solution were added oxalyl chloride (1.99 ml) and a drop of DMF, and the mixture was stirred at room temperature for 1 hour and concentrated under reduced pressure. The residue was dissolved in THF (30 ml), and to the mixture was dropwise added a solution of 4-amino-benzyloxy-tert-butyldimethylsilane (3.97 g) and triethylamine (2.56 ml) in THF (30 ml) at room temperature. The reaction mixture was stirred at room temperature for 19 hours. To the mixture was added water (300 ml), and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried with anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was separated and purified with column chromatography (ethyl acetate/toluene/hexane=1/5/5). The resulting oil was dissolved in acetone (60 ml), and to the mixture was added 6N hydrochloric acid(2 ml). The mixture was stirred at room temperature for 30 minutes. To the reaction mixture were added 0.5% sodium hydroxide (500 ml) and diisopropylether (200 ml), and the mixture was stirred at room temperature for 5 minutes. The resulting precipitate s was filtered and recrystallized from acetone-diisopropylether to give N-[4-(hydroxy-methyl)phenyl]-7-(4-methylphenyl)-3,4-dihydro-naphthalene-2-carboxamide (4.54 g) as pale brown crystals.

reactant | 7-(4-methylphenyl)-3,4-dihydro-naphthalene-2-carboxylic acid | 4.02 g | CC1=CC=C(C=C1)C1=CC=C2CCC(=CC2=C1)C(=O)O | C18H16O2
reactant | oxalyl chloride | 1.99 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
reactant | THF | 60 ml | C1CCOC1 | C4H8O
product | N-[4-(hydroxy-methyl)phenyl]-7-(4-methylphenyl)-3,4-dihydro-naphthalene-2-carboxamide | 4.54 g | OCC1=CC=C(C=C1)NC(=O)C1=CC2=CC(=CC=C2CC1)C1=CC=C(C=C1)C | C25H23NO2
